* source SWITCH SIM
X_U1         N000690 N000691 0 PSMN012-100YS 
V_V1         N00255 0 50Vdc
R_R1         N001191 N00255  500  
R_R2         N000691 N002050  1000  
V_V2         N002050 0  
+PULSE 0 5 0 1n 1n .75 1
X_U2         N001191 N016961 N000690 PSMN012-100YS 
V_V3         N01916 N02296  
+PULSE 0 5 .25 1n 1n .25 1
R_R4         N016961 N01916  1000  
