* source TEST
V_V1         N00146 0 10Vdc
V_V2         N00116 0 -10Vdc
V_V3         N00334 0 DC 1Vdc AC .5Vac 
R_R1         N00247 N00208  7.25k  
R_R2         0 N00247  2.5k  
C_C1         N00334 N00366  4.7u  
C_C2         N00366 N00370  4.7u  
R_R3         0 N00366  12.5k  
R_R4         N00208 N00366  10.2k  
X_U3A         N00370 N00247 N00146 N00116 N00208 LM258
